US09216968B2
6-Amino-N-(3-chloro-2-methylphenyl)-2-(dimethylamino)-1H-benzimidazole-4-carboxamide
To a suspension of N-(3-chloro-2-methylphenyl)-2-(dimethylamino)-6-nitro-1H-benzimidazole-4-carboxamide (580 mg) in MeOH-THF (1:1, 60 mL), was added 2N hydrogen chloride/EtOH (1 mL). To the mixture was added 1% platinum+0.1% copper-activated carbon (Degussa type CF105 R/W) (150 mg) and it was stirred vigorously under hydrogen atmosphere (0.2 MPa) for 3 hours. The reaction mixture was filtered off through celite, and the mother liquid was concentrated. To the residue was added saturated aqueous sodium bicarbonate, and it was extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified on column chromatography to obtain the titled compound (265 mg) as brown powder.

reactant | N-(3-chloro-2-methylphenyl)-2-(dimethylamino)-6-nitro-1H-benzimidazole-4-carboxamide | 580 mg | ClC=1C(=C(C=CC1)NC(=O)C1=CC(=CC=2NC(=NC21)N(C)C)[N+](=O)[O-])C | C17H16ClN5O3
reactant | hydrogen chloride EtOH | 2N, 1 mL | Cl.CCO
solvent | MeOH THF | 60 mL | CO.C1CCOC1
catalyst | platinum | 150 mg | [Pt] | Pt
product | 6-Amino-N-(3-chloro-2-methylphenyl)-2-(dimethylamino)-1H-benzimidazole-4-carboxamide | 265 mg | NC=1C=C(C2=C(NC(=N2)N(C)C)C1)C(=O)NC1=C(C(=CC=C1)Cl)C | C17H18ClN5O
